US06072073
Pd(OAc)2 (4.5 mg, 0.020 mmol), Tri-t-butylphosphine (4.1 mg, 0.020 mmol), NaOtBu (144 mg, 1.50 mmol), 4-Bromobenzophenone (261 mg, 1.00 mmol) and Propiophenone (148 mg, 1.10 mmol) were used. Reaction at 70° C. for 12 h gave 304 mg (97%) of 2-(4-Benzoylphenyl)-1-phenyl-1-propanone after silica gel chromatography (hexane/EtOAc=85/15). 1H NMR: (CDCl3) δ 7.96 (d, J=7.7 Hz, 2H) , 7.76-7.75 (m, 4H), 7.58 (t, J=7.2 Hz, 1H), 7.52 (t, J=7.1 Hz, 1H), 7.47 (t, J=7.7 Hz, 2H), 7.43-7.40 (m, 4H), 4.79 (q, J=6.9 Hz, 1H), 1.59 (d, J=6.9 Hz, 3H); 13C{1H} NMR: (CDCl3) δ 199.66, 196.14, 146.16, 137.51, 136.23, 133.10, 132.40, 130.82, 129.94, 129.80, 128.75, 128.63, 128.26, 127.79, 47.72, 19.37. MS m/e (relative intensity): 314 (10), 105 (100), 77 (38), 51 (13). Anal. Calcd for C22H18O2 : C, 84.05; H, 5.77. Found: C, 83.91: H, 5.88.

reactant | NaOtBu | 1.50 mmol, 144 mg | CC(C)(C)[O-].[Na+]
reactant | 4-Bromobenzophenone | 1.00 mmol, 261 mg | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | Propiophenone | 1.10 mmol, 148 mg | C(CC)(=O)C1=CC=CC=C1 | C9H10O
catalyst | Pd(OAc)2 | 0.020 mmol, 4.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Tri-t-butylphosphine | 0.020 mmol, 4.1 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 2-(4-Benzoylphenyl)-1-phenyl-1-propanone | 304 mg, 97% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)C | C22H18O2
